US07569570B2
Preparation of N-(4-(1-(2,6-difluorobenzyl)-5-(((2-(2-(2-hydroxyethyl)-1H-imidazol-1-yl)ethyl)(methyl)amino)methyl)-2,4-dioxo-3-phenyl-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-ethylurea
The similar reaction to that of Example 120 was performed using N-(4-(1-(2,6-difluorobenzyl)-5-(((2-hydroxyethyl)(methyl)amino)methyl)-2,4-dioxo-3-phenyl-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-ethylurea (135 mg, 0.218 mmol) and 2-(2-hydroxyethyl)imidazole (122 mg, 1.09 mmol) to give the title compound (23 mg, 15%) as colorless crystals.

reactant | N-(4-(1-(2,6-difluorobenzyl)-5-(((2-hydroxyethyl)(methyl)amino)methyl)-2,4-dioxo-3-phenyl-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-ethylurea | 0.218 mmol, 135 mg | FC1=C(CN2C(N(C(C3=C2SC(=C3CN(C)CCO)C3=CC=C(C=C3)NC(=O)NCC)=O)C3=CC=CC=C3)=O)C(=CC=C1)F | C32H31F2N5O4S
reactant | 2-(2-hydroxyethyl)imidazole | 1.09 mmol, 122 mg | OCCC=1NC=CN1 | C5H8N2O
product | N-(4-(1-(2,6-difluorobenzyl)-5-(((2-(2-(2-hydroxyethyl)-1H-imidazol-1-yl)ethyl)(methyl)amino)methyl)-2,4-dioxo-3-phenyl-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-ethylurea | 23 mg, 15% | FC1=C(CN2C(N(C(C3=C2SC(=C3CN(C)CCN3C(=NC=C3)CCO)C3=CC=C(C=C3)NC(=O)NCC)=O)C3=CC=CC=C3)=O)C(=CC=C1)F | C37H37F2N7O4S
